US09034900B2
Step 1: 5-bromo-1-(cyclopropylmethyl)-3-methylpyridin-2-one
Potassium carbonate (1.32 g, 9.57 mmol) was added to 5-bromo-3-methyl-2-hydroxypyridine (600 mg, 3.19 mmol) and bromomethylcyclopropane (861 mg, 6.38 mmol) in DMF (6 mL). After heating at 70° C. for 3 h, EA extractive work up and silca gel chromatography (PE:EA=30:110:1), the title compound (510 mg, yield: 66.0%) was obtained as a white solid. 1H NMR: (CDCl3, 400 MHz) δ: 7.39 (d, J=2.0 Hz, 1H), 7.26 (d, J=2.0 Hz, 1H), 3.77 (d, J=6.8 Hz, 2H), 2.15 (s, 3H), 0.65-0.60 (m, 2H), 0.40-0.37 (m, 2H). LCMS: 242.1; 244.1 (M+H)+

reactant | Potassium carbonate | 9.57 mmol, 1.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-bromo-3-methyl-2-hydroxypyridine | 3.19 mmol, 600 mg | BrC=1C=C(C(=NC1)O)C | C6H6BrNO
reactant | bromomethylcyclopropane | 6.38 mmol, 861 mg | BrCC1CC1 | C4H7Br
reactant | EA | CC(OCC)=O | C4H8O2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 5-bromo-1-(cyclopropylmethyl)-3-methylpyridin-2-one | 510 mg, yield: 66.0% | BrC=1C=C(C(N(C1)CC1CC1)=O)C | C10H12BrNO
